US07291619B2
1-Boc-4-(2-morpholin-4-ylmethyl-phenyl)-piperazine
To a solution of 1-Boc-4-(2-formyl-phenyl)-piperazine (500 mg, 1.7 mmol) in methanol (10 mL) was added morpholine (348 mg, 4.0 mmol) and sodium cyanoborohydride (315 mg, 5 mmol) and the mixture was stirred for about 24 hours. The mixture was diluted with ethyl acetate (100 mL), washed with saturated NaHCO3 solution (10 ml), water (10 mL) and brine (10 mL). The organic phase was dried over anhydrous sodium sulfate and concentrated. Silica gel chromatography (1:1 hexanes/ethyl acetate) afforded the title compound as a colorless oil (182 mg, 30%).

reactant | 1-Boc-4-(2-formyl-phenyl)-piperazine | 1.7 mmol, 500 mg | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)C=O | C16H22N2O3
reactant | morpholine | 4.0 mmol, 348 mg | N1CCOCC1 | C4H9NO
reactant | sodium cyanoborohydride | 5 mmol, 315 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-Boc-4-(2-morpholin-4-ylmethyl-phenyl)-piperazine | 182 mg, 30% | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)CN1CCOCC1 | C20H31N3O3
